US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 2,3-dimethoxybenzylamine (0.094 mL, 0.636 mmol), Pd2(dba)3 (53 mg, 0.058 mmol), rac-BINAP (112 mg, 0.180 mmol) and NaOtBu (139 mg, 1.445 mmol) in DMA (5 mL) was heated at 85° C. for 2 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2,3-dimethoxy-benzylamino)-2H-phthalazin-1-one (37 mg) as an off white solid, 1H (400 MHz, d6-DMSO) δ: 3.79 (s, 3H), 3.80 (s, 3H), 4.40 (d, 2H), 6.83 (s, 1H), 6.88 (dd, 1H), 7.00 (m, 2H), 7.14 (dd, 1H), 7.53 (t, 1H), 7.91 (d, 1H), 12.33 (bs, 1H) ppm; m/z (M+1) 345.92.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2,3-dimethoxybenzylamine | 0.636 mmol, 0.094 mL | COC1=C(CN)C=CC=C1OC | C9H13NO2
reactant | rac-BINAP | 0.180 mmol, 112 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.445 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.058 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2,3-dimethoxy-benzylamino)-2H-phthalazin-1-one | 37 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C(=CC=C1)OC)OC)=O | C17H16ClN3O3
